US04297350
Step A--17β-Hydroxy-17α-methyl-5α-androstan-3-one 3-ethylene ketal
Ethylene glycol (20 ml.) and p-TSA (5 mg.) is added to 17β-hydroxy-17α-methyl-5α-androstan-3-one (3.0 g.) in methylene chloride (20 ml.). The mixture is heated on a steam bath until most of the methylene chloride is removed. The remainder of the methylene chloride is removed on a rotary evaporator. The mixture is cooled and a small amount of a sodium bicarbonate solution and water are added and the mixture filtered. The filtered solids are washed and dried to give the subtitle compound, NMR (CDCl3), 0.83, 0.84, 1.20 and 3.92 δ.

reactant | Ethylene glycol | 20 ml | C(CO)O | C2H6O2
reactant | p-TSA | 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 17β-hydroxy-17α-methyl-5α-androstan-3-one | 3.0 g | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)C | C20H32O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 17β-Hydroxy-17α-methyl-5α-androstan-3-one 3-ethylene ketal | C1COC2(C[C@@H]3CC[C@H]4[C@@H]5CC[C@]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)(C)O)O1 | C22H36O3
